2153-05-10 04:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   24 Hour Events:
   Overnight had short run of v tach (asymptomatic)
   Allergies:
   Codeine
   Nausea/Vomiting
   Tetracycline
   Rash; Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-10**] 04:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 91 (85 - 94) bpm
   BP: 141/82(96) {124/75(88) - 160/105(117)} mmHg
   RR: 20 (15 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,685 mL
                                                                    565 mL
   PO:
             TF:
   IVF:
                                                                  1,685 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                    300 mL
   Urine:
                                                                    700 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    685 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   VS: BP 160/105  HR 93
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema.  No femoral bruits. right femoral dressing with
   bloody oozing
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  Femoral 2+  DP 2+ PT 2+
   Left:  Femoral 2+  DP 2+ PT 2+
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   176 K/uL
   15.3 g/dL
   98
   1.0
   24
   4.3
   11
   104
   134
   46.0 %
   5.3 K/uL
        [image002.jpg]
   CK 1166   MB 278   MBI 23.8   INR 1.0   Ca 8.4   P 2.0   p 3.5
                             [**2153-5-10**]  02:56 AM
   WBC
   5.3
   Hct
   46.0
   Plt
   176
   Other labs: PT / PTT / INR:12.0/31.0/1.0
   EKG:  NSR, rate 96, nml axis and > 5mm ST elevations in II, III, avF,
   and depressions in V1-V4.
   .
   CARDIAC CATH [**2153-5-9**]:
   50% stenosis of the LMCA and total occlusion of the large RPL.  He also
   had mild diffuse disease of the LAD at the origin of the D1 and 50-60%
   stenosis of the D2, 70% stenosis of the OM, and proximal 40% stenosis
   of the RCA.  He had successful [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] 3 placed in his RCA.
   .
   Assessment and Plan
   ASSESSMENT AND PLAN
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   .
   # CORONARIES: Now s/p DESs to distal RCA.  Has evidence of left main
   disease which is an indication for CABG.
   - Stop Integrillin
   -ASA 325 mg daily
   -clopidogrel 75 mg daily
   -f/u lipid profile; atorvastatin 80 mg daily
   -metoprolol 25 mg TID; consider change to succinate tomorrow
   -check echocardiogram
   -consider initiation of ACEi
   -check A1c
   -repeat ECG tomorrow
   -consider CT [**Doctor First Name 91**] c/s for elective CABG
   -smoking cessation counseling
   .
   # HIV: No recent CD4 counts in our records, but reportedly compliant
   with HAART.
   -- continue Kaletra 50 mg  2 Tabs [**Hospital1 **]
   -- continue Trizivir 1 tab [**Hospital1 **]
   -- continue bactrim prophy
   -- continue acyclovir
   .
   # BPH:
   -- continue terazosin
   .
   # Insomnia:
   -- holding trazodone for now given arrhythmogenicity
   .
   -DVT ppx with Heparin subq
   - bowel regimen - docusate
   - pain - tylenol PRN
   .
   CODE: full
   .
   COMM: patient
   .
   DISPO: call out to [**Hospital Ward Name **] 3
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-5-9**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 12333**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2153-5-10**] 12:18 ------

2153-05-11 07:39:00 Physician Resident Progress Note
Chief Complaint: STEMI
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2153-5-10**] 09:00 AM
   - 1400 developed hematoma in right groin; pressure held for 15 mins
   with stabalization
   - called out but no bed available; reasonable to keep anyway for
   monitoring of groin
   - echo demonstrates reduced LVEF of 35% with focal akinesis
   - started low-dose lisinopril based on echo
   - Wheezing and dyspnea - written for nebs and cough suppressant
   - Having pain at groin site but size unchanged
   - Had temp of 99.5 which he says it's high for him
   Allergies:
   Codeine
   Nausea/Vomiting
   Tetracycline
   Rash; Wheezing;
   Last dose of Antibiotics:
   Cefazolin - [**2153-5-10**] 10:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2153-5-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 78 (68 - 94) bpm
   BP: 109/67(76) {87/51(61) - 137/87(98)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.8 kg (admission): 63.5 kg
   Height: 71 Inch
                  Total In:
                                                                  1,788 mL
                                                                    120 mL
   PO:
                                                                    920 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    868 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    400 mL
   Urine:
                                                                  1,475 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   VS: BP 160/105  HR 93
   GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema.  No femoral bruits. right femoral dressing with
   bloody oozing
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  Femoral 2+  DP 2+ PT 2+
   Left:  Femoral 2+  DP 2+ PT 2+
   Labs / Radiology
   187 K/uL
   16.9 g/dL
   98 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.3 mEq/L
   11 mg/dL
   104 mEq/L
   134 mEq/L
   50.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2153-5-10**]  02:56 AM
                             [**2153-5-10**]  10:29 AM
                             [**2153-5-10**]  07:32 PM
                             [**2153-5-11**]  06:01 AM
   WBC
   5.3
   8.8
   Hct
   46.0
   44.3
   50.5
   Plt
   176
   187
   Cr
   1.0
   TropT
   9.75
   4.20
   Glucose
   98
   Other labs: PT / PTT / INR:12.0/31.0/1.0, CK / CKMB /
   Troponin-T:673/140/4.20, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: .
   Imaging: Echo [**5-10**]
   The left atrium is elongated. Left ventricular wall thicknesses are
   normal. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is moderately depressed (LVEF= 35 %)
   secondary to akinesis of the inferior free wall, and hypkonesis of the
   inferior septum and posterior wall. There is no ventricular septal
   defect. Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. No aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. No mitral regurgitation is seen. The
   pulmonary artery systolic pressure could not be determined. There is no
   pericardial effusion.
   Microbiology: MRSA and blood cultures pending.
   ECG: .
   Assessment
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   Plan
   Coronary Artery Disease
   Now s/p DESs to distal RCA.  Has evidence of left main disease which is
   an indication for CABG.
   - Stop Integrillin
   -ASA 325 mg daily
   -clopidogrel 75 mg daily
   -f/u lipid profile; atorvastatin 80 mg daily
   -metoprolol 25 mg TID; consider change to succinate tomorrow
   -check echocardiogram
   -consider initiation of ACEi
   -check A1c
   -repeat ECG tomorrow
   -consider CT [**Doctor First Name 91**] c/s for elective CABG
   -smoking cessation counseling
   Hypotension
   Some diarrhea overnight and CBC consistent with volume contraction
   (concentration). Therefore likely due to hypovolemia, rather than bleed
   or cardiogenic. No evidence of sepsis or infective cause. Describes
   some vagal symptoms also.
   - Fluids
   - Follow hematoma and CBC/other labs for contraction and expansion
   Groin Hematoma
   Non-pulsatile and without bruit, thus representing some hemorrhage into
   soft tissues. Was stable this morning and slightly worsened later in
   a.m. Hematocrit increased due to volume contraction so unable to
   evaluate bleed, but could not be large volume and palpation reveals
   smallish loss.
   - Follow groin hematoma size by marking
   - Follow hematocrit
   - Continue ASA, Plavix (150) and heparin given importance of Rx CAD,
   over reducing symptomatic, but non-serious, bleed.
   Cough
   Slightly worsened, per the patient. Upper respiratory tract infection
   was a likely inciting event for this AMI. We do not know what his CD4
   count is, so both typical and atypical infections are possible,
   modified by his continuance of Bactrim and acyclovir.
   - Chest x-ray
   - Send sputum for culture and Gram stain
   - Consider AFBs if worsens
   HIV
   No recent CD4 counts in our records, but reportedly compliant with
   HAART.
   - continue Kaletra 50 mg  2 Tabs [**Hospital1 **]
   - continue Trizivir 1 tab [**Hospital1 **]
   - continue bactrim prophy
   - continue acyclovir
   BPH
   - continue terazosin
   Insomnia
   - holding trazodone for now given arrhythmogenicity
   -DVT ppx with Heparin subq
   - bowel regimen - docusate
   - pain - tylenol PRN
   CODE: full
   COMM: patient
   DISPO: call out to [**Hospital Ward Name **] 3
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-5-9**] 08:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2153-05-12 07:16:00 Physician Resident Progress Note
Chief Complaint: STEMI
   24 Hour Events:
   [**2153-5-11**]
   - Hematoma slightly increased in later a.m. - Hct
   - Coughing slightly worse and new opacity on CXR (soft and ambiguous),
   productive cough, but no impressive fever - will follow.
   - Blood pressure stable about high 90s systolic
   - Kept in CCU for today based on concern over symptomatic hypotension
   in a.m.
   Allergies:
   Codeine
   Nausea/Vomiting
   Tetracycline
   Rash; Wheezing;
   Last dose of Antibiotics:
   Cefazolin - [**2153-5-10**] 10:38 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-5-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 92 (73 - 95) bpm
   BP: 103/62(71) {78/43(57) - 137/86(97)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 63.5 kg
   Height: 71 Inch
                  Total In:
                                                                  1,620 mL
                  PO:
                                                                    520 mL
                  TF:
   IVF:
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    700 mL
   Urine:
                                                                  1,700 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -80 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   GENERAL: WDWN in respiratory distress 90% on RA and required 4L.
   Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   labored with polyphonic wheeze throughout and poor air entry
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema.  No femoral bruits. right femoral dressing with
   bloody oozing
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right:  Femoral 2+  DP 2+ PT 2+
   Left:  Femoral 2+  DP 2+ PT 2+
   Labs / Radiology
   187 K/uL
   16.9 g/dL
   90 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.8 mEq/L
   17 mg/dL
   102 mEq/L
   133 mEq/L
   50.5 %
   8.8 K/uL
        [image002.jpg]
                             [**2153-5-10**]  02:56 AM
                             [**2153-5-10**]  10:29 AM
                             [**2153-5-10**]  07:32 PM
                             [**2153-5-11**]  06:01 AM
   WBC
   5.3
   8.8
   Hct
   46.0
   44.3
   50.5
   Plt
   176
   187
   Cr
   1.0
   1.1
   TropT
   9.75
   4.20
   3.46
   Glucose
   98
   90
   Other labs: PT / PTT / INR:12.1/32.1/1.0, CK / CKMB /
   Troponin-T:257/35/3.46, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR c/w retrocardiac opacity, but somewhat ambiguous.
   Microbiology: None.
   ECG: .
   Assessment
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   Plan
   Cough, shortness of breath
   Based on physical exam is likely COPD flare, without focality
   suggestive of pneumonia. Therefore will await CD4 count to decide on
   atypical treatment and otherwise proceed with COPD Rx. Given present
   tachycardia, will hold albuterol for now. Given upper respiratory tract
   infection for last two weeks, shadow on CXR and low-grade fever, is
   likely [**2-27**] infection/PNA.
   - Ipratropium nebs
   - Mucomyst nebs
   - Continue Tessalon
   - Nasal canula
   - Prednisone 50 mg PO QD
   - Ceftriaxone 1g
   - Fluid resuscitation
   Coronary Artery Disease
   Now s/p DESs to distal RCA.  Has evidence of left main disease which is
   an indication for CABG.
   - ASA 325 mg daily
   -clopidogrel 75 mg daily
   -f/u lipid profile; atorvastatin 80 mg daily
   -metoprolol 25 mg TID; consider change to succinate
   -Check echocardiogram
   -Start lisinopril 5 mg QD
   -Repeat ECG
   -Consider CT [**Doctor First Name 91**] c/s for elective CABG as outpatient
   -Continue smoking cessation counseling
   Hypotension
   Some diarrhea overnight and CBC consistent with volume contraction
   (concentration). Therefore likely due to hypovolemia, rather than bleed
   or cardiogenic. No evidence of sepsis or infective cause. Describes
   some vagal symptoms also.
   - Fluids
   - Follow hematoma and CBC/other labs for contraction and expansion
   Groin Hematoma
   Non-pulsatile and without bruit, thus representing some hemorrhage into
   soft tissues. Was stable this morning and slightly worsened later in
   a.m. Hematocrit increased due to volume contraction so unable to
   evaluate bleed, but could not be large volume and palpation reveals
   smallish loss.
   - Follow groin hematoma size by marking
   - Follow hematocrit
   - Continue ASA, Plavix (150) and heparin given importance of Rx CAD,
   over reducing symptomatic, but non-serious, bleed.
   Cough
   Slightly worsened, per the patient. Upper respiratory tract infection
   was a likely inciting event for this AMI. We do not know what his CD4
   count is, so both typical and atypical infections are possible,
   modified by his continuance of Bactrim and acyclovir.
   - Chest x-ray
   - Send sputum for culture and Gram stain
   - Consider AFBs if worsens
   HIV
   No recent CD4 counts in our records, but reportedly compliant with
   HAART.
   - continue Kaletra 50 mg  2 Tabs [**Hospital1 **]
   - continue Trizivir 1 tab [**Hospital1 **]
   - continue bactrim prophy
   - continue acyclovir
   BPH
   - continue terazosin
   Insomnia
   - holding trazodone for now given arrhythmogenicity
   -DVT ppx with Heparin subq
   - bowel regimen - docusate
   - pain - tylenol PRN
   CODE: full
   COMM: patient
   DISPO: call out to [**Hospital Ward Name **] 3
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-5-9**] 08:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Day 3 post inferoposterior MI.  Echo has shown EF 30-35%. New complaint
   of dyspnea, cough and wheezing.
   Physical Examination
   JVP approximately 10-12 cm.
   Lungs with decreased air movement and bilateral wheezing.
   Heart: Distant sounds, PMI displaced inferior; No murmur or gallop
   Extremities: No edema
   Medical Decision Making
   Cardiac status stable post MI.  New dyspnea most likely secondary to
   COPD exacerbation with possible acute infection.  Will follow-up CXR
   today, add antibiotic coverage, steroids pending CD40 count,
   bronchodilators.  ID consult if not improving.
   Have considered heart failure cause with possibility of post MI mitral
   regurgitation but no murmur or other clinical evidence.  Will repeat
   echo if not improving.
   ------ Protected Section Addendum Entered By:[**Name (NI) 58**] [**Last Name (NamePattern1) **], MD
   on:[**2153-5-12**] 10:11 ------

2153-05-13 07:47:00 Physician Resident Progress Note
Chief Complaint: chest pain, STEMI
   24 Hour Events:
   [**2153-5-12**]
   - dyspneic in the Am so started IV steroids, standing nebs, ceftriaxone
   and azithromycin for CAP although may consider HAp if no clinical
   improvement
   - developed abdominal hematomas from subQ heparin so D/C prophy hep and
   placed pneumoboots
   Allergies:
   Codeine
   Nausea/Vomiting
   Tetracycline
   Rash; Wheezing;
   Last dose of Antibiotics:
   Cefazolin - [**2153-5-10**] 10:38 AM
   Ceftriaxone - [**2153-5-12**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No CP and improved SOB. Feels much better.
   Flowsheet Data as of  [**2153-5-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**55**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.2
   HR: 80 (70 - 105) bpm
   BP: 120/73(84) {92/52(61) - 134/85(92)} mmHg
   RR: 8 (8 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65 kg (admission): 63.5 kg
   Height: 71 Inch
                  Total In:
                                                                  3,396 mL
                                                                    180 mL
   PO:
                                                                  2,020 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,376 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    500 mL
   Urine:
                                                                  2,800 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    596 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Looks much better, no respiratory distress. Oriented x3. Mood,
   affect appropriate.
   HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor or
   cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with no elevation of JVP
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   labored with polyphonic wheeze throughout and moderately reduced air
   entry (improved from yesterday)
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: no edema.  Soft femoral bruit. right femoral small
   hematoma that
s TTP no significant growth
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:  Good DP pulses,
   Labs / Radiology
   177 K/uL
   14.2 g/dL
   93 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   135 mEq/L
   41.9 %
   6.7 K/uL
        [image002.jpg]
                             [**2153-5-10**]  02:56 AM
                             [**2153-5-10**]  10:29 AM
                             [**2153-5-10**]  07:32 PM
                             [**2153-5-11**]  06:01 AM
                             [**2153-5-12**]  06:21 AM
   WBC
   5.3
   8.8
   6.7
   Hct
   46.0
   44.3
   50.5
   41.9
   Plt
   176
   187
   177
   Cr
   1.0
   1.1
   1.1
   TropT
   9.75
   4.20
   3.46
   Glucose
   98
   90
   93
   Other labs: PT / PTT / INR:12.3/33.6/1.0, CK / CKMB /
   Troponin-T:257/35/3.46, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Imaging: CXR AP [**2153-5-12**]:
   FINDINGS: Heart size remains normal. Persistent patchy left
   retrocardiac
   opacity which could reflect either atelectasis or focal pneumonia.
   Diffuse
   haziness of right hemithorax compared to the left is likely related to
   technical artifact.
   Microbiology: [**2153-5-13**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2153-5-9**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2153-5-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 HEMORRHAGE/HEMATOMA, PROCEDURE-RELATED (E.G., CATH, PACEMAKER, ICD
   BLEED)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   Assessment
   Mr. [**Known lastname 12636**] is a 51 YOM with HIV on HAART who presented from his PCP's
   office with 2 episodes of chest pain in the last day and was found to
   have STEMI with 50% left main and total occlusion of distal branch of
   the RCA who is now s/p drug eluting stents to the RCA.
   Plan
   Cough, shortness of breath
   Based on physical exam is likely COPD flare, however new focality
   suggestive of pneumonia. Therefore will await CD4 count to decide on
   atypical treatment and otherwise proceed with COPD Rx. Given present
   tachycardia, will hold albuterol for now. Given upper respiratory tract
   infection for last two weeks, shadow on CXR and low-grade fever, is
   likely [**2-27**] infection/PNA.
   - Ipratropium nebs
   - Mucomyst nebs
   - Continue Tessalon
   - Nasal canula
   - Prednisone 50 mg PO QD
   - Ceftriaxone 1gm IV Q24H x 8 days (DAY 1 = [**2153-5-12**])
   - Azithromycin 250mg PO Daily x 8 days (DAY 1 = [**2153-5-12**])
   - Fluid resuscitation
   - Sputum cx
   Coronary Artery Disease
   Now s/p DESs to distal RCA.  Has evidence of left main disease which is
   an indication for CABG.
   - ASA 325 mg daily
   -clopidogrel 75 mg daily
   -f/u lipid profile; atorvastatin 80 mg daily
   -metoprolol 12.5 mg [**Hospital1 **] and uptitrate
   -Check echocardiogram
   -Start lisinopril 5 mg QD
   -Repeat ECG
   -Consider CT [**Doctor First Name 91**] c/s for elective CABG as outpatient
   -Continue smoking cessation counseling
   Hypotension
   Resolved.
   Groin Hematoma
   Non-pulsatile and without bruit, thus representing some hemorrhage into
   soft tissues. Was stable this morning and slightly worsened later in
   a.m. Hematocrit increased due to volume contraction so unable to
   evaluate bleed, but could not be large volume and palpation reveals
   smallish loss.
   - Follow groin hematoma size by marking
   - Follow hematocrit
   - Continue ASA, Plavix (150)
   - U/S to rule out leaking hematoma
   HIV
   No recent CD4 counts in our records, but reportedly compliant with
   HAART.
   - continue Kaletra 50 mg  2 Tabs [**Hospital1 **]
   - continue Trizivir 1 tab [**Hospital1 **]
   - continue bactrim prophy
   - continue acyclovir
   - F/u CD4 count (still pending), if very low, may need to broaden
   coverage if fails to improve
   BPH
   - continue terazosin
   Insomnia
   - holding trazodone for now given arrhythmogenicity
   -DVT ppx with Heparin subq
   - bowel regimen - docusate
   - pain - tylenol PRN
   CODE: full
   COMM: patient
   DISPO: call out to [**Hospital Ward Name **] 3
   ICU Care
   Nutrition: Cardiac
   Glycemic Control:
   Lines:
   18 Gauge - [**2153-5-9**] 08:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor